US08957203B2
Methyl 2-(4-isopropoxyphenyl)acetate (10 g, 48.0 mmol), and NaOH (5.76 g, 144 mmol) were heated in methanol (50 mL)/Water (50 mL) solution at reflux for 2 h. Most of the MeOH was removed under vacuum and the remaining aqueous solution was acidified with 1 N HCl. The solid that precipitated from the solution was extracted into EtOAc solution. The organic layer was collected, dried over sodium sulfate, and concentrated under vacuum to give 2-(4-isopropoxyphenyl)acetic acid (8.9 g, 95% yield). 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 7.22-7.16 (m, 2H), 6.88-6.83 (m, 2H), 4.53 (spt, J=6.1 Hz, 1H), 3.59 (s, 2H), 1.34 (d, J=6.0 Hz, 6H).

reactant | Methyl 2-(4-isopropoxyphenyl)acetate | 48.0 mmol, 10 g | C(C)(C)OC1=CC=C(C=C1)CC(=O)OC | C12H16O3
reactant | NaOH | 144 mmol, 5.76 g | [OH-].[Na+]
reactant | Water | 50 mL | O | H2O
solvent | methanol | 50 mL | CO | CH4O
product | 2-(4-isopropoxyphenyl)acetic acid | 8.9 g, 95% yield | C(C)(C)OC1=CC=C(C=C1)CC(=O)O | C11H14O3
